US08912188B2
To a solution of methyl 2-(5-fluorobenzo[b]thiophen-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (148 mg, 0.36 mmol) in tetrahydrofuran (25 mL) was added sodium hydroxide (43.4 mg, 1.08 mmol) and water (2 mL) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (20 mL) and adjusted to pH 5 with hydrochloric acid (3N). The solids were collected by filtration to afford 2-(5-fluorobenzo[b]thiophen-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid (69 mg, 49%).

reactant | methyl 2-(5-fluorobenzo[b]thiophen-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.36 mmol, 148 mg | FC1=CC2=C(SC(=C2)C2=NC3=CC=C(C=C3N=C2N(C)C(C)C)C(=O)OC)C=C1 | C22H20FN3O2S
reactant | sodium hydroxide | 1.08 mmol, 43.4 mg | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2-(5-fluorobenzo[b]thiophen-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 69 mg, 49% | FC1=CC2=C(SC(=C2)C2=NC3=CC=C(C=C3N=C2N(C)C(C)C)C(=O)O)C=C1 | C21H18FN3O2S
